US08138197B2
5-Chloro-3-methyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde
In a 1.0-liter egg plant-type flask, POCl3 (56 mL, 0.60 mL) was dropwise added to a DMF (17.4 mL, 0.23 mol) solution of 3-methyl-1-pyridin-2-yl-1H-pyrazol-5-ol with cooling with ice, and stirred overnight at 80° C. The reaction solution was poured onto crushed ice, and stirred at room temperature. The formed precipitate was filtered, and dried under reduced pressure to obtain the title compound as a pale brown solid.

reactant | POCl3 | 56 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.23 mol, 17.4 mL | CN(C)C=O | C3H7NO
reactant | 3-methyl-1-pyridin-2-yl-1H-pyrazol-5-ol | CC1=NN(C(=C1)O)C1=NC=CC=C1 | C9H9N3O
product | 5-Chloro-3-methyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde | ClC1=C(C(=NN1C1=NC=CC=C1)C)C=O | C10H8ClN3O
